US06762205B1
224 mg of 4-[N-(4-hydroxybenzyl)amino]benzonitrile, 0.28 ml of triethylamine, and 7 ml of tetrahydrofuran were mixed, and 178 mg of nicotinoyl chloride hydrochloride was slowly added thereto, followed by stirring at room temperature overnight. After water was added to the reaction mixture, the product was extracted with tetrahydrofuran-diethyl ether (1:1). After the extract was washed with water and dried over anhydrous sodium sulfate, the solvent was distilled off under reduced pressure. The resulting crude product was purified by TLC (using a 9:1 mixture of chloroform and acetone as the developing solvent) to obtain 292 mg of N-(4-cyanophenyl)-N-(4-hydroxybenzyl)-nicotinamide.

reactant | 4-[N-(4-hydroxybenzyl)amino]benzonitrile | 224 mg | OC1=CC=C(CNC2=CC=C(C#N)C=C2)C=C1 | C14H12N2O
reactant | triethylamine | 0.28 ml | C(C)N(CC)CC | C6H15N
reactant | tetrahydrofuran | 7 ml | O1CCCC1 | C4H8O
reactant | nicotinoyl chloride hydrochloride | 178 mg | Cl.C(C1=CN=CC=C1)(=O)Cl
solvent | water | O | H2O
product | N-(4-cyanophenyl)-N-(4-hydroxybenzyl)-nicotinamide | 292 mg | C(#N)C1=CC=C(C=C1)N(C(C1=CN=CC=C1)=O)CC1=CC=C(C=C1)O | C20H15N3O2
